US06538152B1
To a stirred solution of ethyl 2-[2-ethoxy-4-(2-hydroxyethyl)phenoxy]acetate (1.15 g) in dichloromethane (4.3 ml) was added tert-butyl hypochlorite (478 μl) at room temperature, and the mixture was stirred for 15 minutes. To the reaction mixture was added a solution of sodium sulfite (542 mg) in water (5 ml), and the resulting mixture was stirred for 10 minutes at room temperature. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave ethyl 2-[5-chloro-2-ethoxy-4-(2-hydroxyethyl)phenoxy]acetate (1.28 g).

reactant | ethyl 2-[2-ethoxy-4-(2-hydroxyethyl)phenoxy]acetate | 1.15 g | C(C)OC1=C(OCC(=O)OCC)C=CC(=C1)CCO | C14H20O5
reactant | tert-butyl hypochlorite | 478 μl | ClOC(C)(C)C | C4H9ClO
reactant | sodium sulfite | 542 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 4.3 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | ethyl 2-[5-chloro-2-ethoxy-4-(2-hydroxyethyl)phenoxy]acetate | 1.28 g | ClC=1C(=CC(=C(OCC(=O)OCC)C1)OCC)CCO | C14H19ClO5
